data/oMe_Silver.jsonl
{"reaction_id": "NR-049_1-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_2-c1ccccc1_3-C_4-CCCC(C)C","name": "Corey-Seebach Reaction","level": "easy","reactants_smiles": ["S(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(c1ccccc1)S(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)","O=C(C)(CCCC(C)C)"],"products_smiles": ["S(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(c1ccccc1)(C(O)(C)(CCCC(C)C))S(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)"],"conditions": "1) n-BuLi 2) Benzaldehyde 3) H3O+ workup","mechnism_text_description": "The mechanism begins with the deprotonation of 2-ethyl-1,3-dithiane (CCC1SCCS1) at the C2 position by n-butyllithium (n-BuLi), forming a nucleophilic lithiated dithiane carbanion. This carbanion then undergoes nucleophilic addition to the electrophilic carbonyl carbon of benzaldehyde (O=Cc1ccccc1), generating a lithium alkoxide intermediate. Finally, protonation of this alkoxide by an acidic workup (e.g., H3O+) yields the final product, 2-ethyl-2-(hydroxy(phenyl)methyl)-1,3-dithiane.","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "S(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)[C-](c1ccccc1)S(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)","step_weight": 0,"rationale": "n-BuLi abstracts the acidic C2 proton, as the adjacent sulfurs stabilize the resulting carbanion through inductive withdrawal and resonance, making deprotonation thermodynamically favorable."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "S(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(c1ccccc1)(C([O-])(C)(CCCC(C)C))S(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)","step_weight": 0,"rationale": "The carbanion attacks the aldehyde’s electrophilic carbonyl carbon, driven by strong nucleophilicity and polarization of the C=O bond, forming a tetrahedral alkoxide intermediate."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "S(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(c1ccccc1)(C(O)(C)(CCCC(C)C))S(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)","step_weight": 0,"rationale": "Acidic workup protonates the alkoxide oxygen, favored by the high basicity of the alkoxide and the availability of protons in the acidic medium."}],"description": "n-BuLi deprotonates the acidic C2 of the dithiane, generating a stabilized carbanion via sulfur’s inductive and resonance effects. This nucleophile attacks the electrophilic aldehyde carbon, forming an alkoxide, which is protonated during acidic workup to yield the hydroxylated dithiane product."}
{"reaction_id": "NR-142_1-c1ccccc1C_2-c1ccc(OC)cc1_3-c1ccc2ccccc2c1","name": "Meisenheimer Rearrangement","level": "medium","reactants_smiles": ["[N+]([O-])(c1ccccc1C)(c1ccc(OC)cc1)(c1ccc2ccccc2c1)"],"products_smiles": ["N(Oc1ccccc1C)(c1ccc(OC)cc1)(c1ccc2ccccc2c1)"],"conditions": "Heat","mechanism": [{"step": 1,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "N(Oc1ccccc1C)(c1ccc(OC)cc1)(c1ccc2ccccc2c1)","rationale": "Thermal energy promotes a concerted [2,3]-sigmatropic shift, favored by the N-oxide’s ability to delocalize electron density and stabilize the transition state through resonance between nitrogen and oxygen."}],"description": "Upon heating, the N-oxide undergoes a [2,3]-sigmatropic rearrangement (Meisenheimer rearrangement), shifting the c1ccccc1C group from nitrogen to oxygen. This pericyclic process is thermally allowed and driven by the formation of a strong N–O bond and relief of electronic strain."}
